US08981104B2
1-{4-[4-(Chloromethyl)phenyl]piperidin-1-yl}propan-1-one
5 g (23 mmol) of 1-(4-phenylpiperidin-1-yl)propan-1-one, 4.84 g (161 mmol) of paraformaldehyde and 4.7 g (34.5 mmol) of zinc chloride were initially charged in 200 ml of dichloromethane. With vigorous stirring, hydrogen chloride gas was then passed through the reaction mixture for 30 min After the introduction had ended, the reaction mixture was stirred at room temperature overnight. Water was then added to the reaction solution, the organic phase was separated off and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated to dryness on a rotary evaporator. The residue obtained was purified by preparative HPLC. During concentration, some of the product hydrolyzed to the analogous 4-(hydroxymethyl) compound. The product mixture obtained (3.68 g) was then taken up with stirring in 100 ml of THF, and 500 mg of zinc chloride and then 2 ml of thionyl chloride were added. This mixture was then stirred at room temperature for 1 hour. After addition of water and ethyl acetate to the reaction solution, the organic phase was separated off, dried over sodium sulphate, filtered and concentrated to dryness. This gave 3.4 g (12.79 mmol, 56% of theory) of the target compound.

reactant | 1-(4-phenylpiperidin-1-yl)propan-1-one | 23 mmol, 5 g | C1(=CC=CC=C1)C1CCN(CC1)C(CC)=O | C14H19NO
reactant | paraformaldehyde | 161 mmol, 4.84 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 34.5 mmol, 4.7 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 500 mg | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-{4-[4-(Chloromethyl)phenyl]piperidin-1-yl}propan-1-one | ClCC1=CC=C(C=C1)C1CCN(CC1)C(CC)=O | C15H20ClNO
